US07629494B2
2-Cyclopropyl-6-methylphenol
A 200 ml four-necked round-bottomed flask was equipped with a magnetic stirrer bar, a thermometer and a drying tube. Magnesium (498 mg, 20.5 mmol) and anhydrous THF (7 ml) were added thereto under a nitrogen atmosphere. The mixture was heated in an oil bath of 75° C. for 15 minutes (temperature of the mixture was 62-64° C.). Subsequently, the mixture was heated in an oil bath of 75° C. and a solution of 2-(1,3-dibromopropyl)-6-methylphenyl acetate (6.00 g, 17.1 mmol or less) in THF (21 ml) was added thereto over 20 minutes. The temperature of the mixture was raised to 70° C. After the mixture was stirred in an oil bath of 75° C. for 3 hours, the mixture was cooled and 6M hydrochloric acid (7.13 ml, 42.8 mmol) was added thereto over 5 minutes. After the mixture was stirred at room temperature for 1 hour, it was transferred to a 200 ml round bottom flask and most of THF was distilled off under reduced pressure. Methanol (15 ml) was added to the residue and the obtained mixture was stirred under heating at reflux for 9 hours. The mixture was cooled and methanol was distilled off under reduced pressure. Water (8 ml) was added to the residue and it was extracted with toluene (25 ml and 15 ml). The organic layer was combined and washed with water (20 ml), followed by concentration to obtain 2.69 g of a crude product of 2-cyclopropyl-6-methylphenol.

reactant | Magnesium | 20.5 mmol, 498 mg | [Mg] | Mg
reactant | 2-(1,3-dibromopropyl)-6-methylphenyl acetate | 17.1 mmol or less, 6.00 g | C(C)(=O)OC1=C(C=CC=C1C)C(CCBr)Br | C12H14Br2O2
reactant | hydrochloric acid | 42.8 mmol, 6M, 7.13 ml | Cl | ClH
solvent | THF | 21 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-Cyclopropyl-6-methylphenol | 2.69 g | C1(CC1)C1=C(C(=CC=C1)C)O | C10H12O
